US07064143B1
4-Hydroxy-1-methyl-2-(pyrrolidin-1-ylcarbonyl)-1H-indole
From 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid and pyrrolidine the title compound was prepared by a method analogous to that described in Example 11. MS ES (M++H)=245.

reactant | 4-benzyloxy-1-methyl-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C17H15NO3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-Hydroxy-1-methyl-2-(pyrrolidin-1-ylcarbonyl)-1H-indole | OC1=C2C=C(N(C2=CC=C1)C)C(=O)N1CCCC1 | C14H16N2O2
